US06169090A
3-(7-Methoxyfuro[2,3-c]pyridin-2-yl)tetrahydrofuran-3-ol
Starting from 7-methoxyfuro[2,3-c]pyridine (2.5 g) and dihydrofuran-3-one (1.7 g). Purification by column chromatography on silica eluting with 50% ethyl acetate in heptane afforded the title compound as a brown oil (2 g).

reactant | 7-methoxyfuro[2,3-c]pyridine | 2.5 g | COC=1N=CC=C2C1OC=C2 | C8H7NO2
reactant | dihydrofuran-3-one | 1.7 g | O1CC(CC1)=O | C4H6O2
product | 3-(7-Methoxyfuro[2,3-c]pyridin-2-yl)tetrahydrofuran-3-ol | 2 g | COC=1N=CC=C2C1OC(=C2)C2(COCC2)O | C12H13NO4
